US07005432B2
3-(2-Methyl-imidazol-1-yl-methyl)-5-(5,6,7,8-tetrahydro-naphthalen-2-yl)-pyridazine hydrochloride
The title compound, MS: m/e=305.3 (M+H+), was prepared from 4,4,5,5-tetramethyl-2-(5,6,7,8-tetrahydro-naphthalen-2-yl)-[1,3,2]dioxaborolane and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 4,4,5,5-tetramethyl-2-(5,6,7,8-tetrahydro-naphthalen-2-yl)-[1,3,2]dioxaborolane | CC1(OB(OC1(C)C)C1=CC=2CCCCC2C=C1)C | C16H23BO2
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 3-(2-Methyl-imidazol-1-yl-methyl)-5-(5,6,7,8-tetrahydro-naphthalen-2-yl)-pyridazine hydrochloride | Cl.CC=1N(C=CN1)CC=1N=NC=C(C1)C1=CC=2CCCCC2C=C1 | InChI=1S/C19H20N4.ClH/c1-14-20-8-9-23(14)13-19-11-18(12-21-22-19)17-7-6-15-4-2-3-5-16(15)10-17;/h6-12H,2-5,13H2,1H3;1H
